data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3572,4073,[CH3:6][C:7](=[O:8])[CH-:9][NH+:10]=[C:11]([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:11]([C:12]#[N:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[NH:10][CH:9]1[C:7]([CH3:6])=[O:8],water,298.15,47.062510835449416,34.00282793416965
1028,1121,[CH3:11][O:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]#[N:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([C:18]#[N:19])=[N:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,8.823447891043747,-38.727953699588646
2542,2822,[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:23][NH:24][C:25](=[O:26])[C-:27]([CH3:28])[NH+:29]=[CH:30][c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[CH:30]([c:31]2[cH:32][cH:33][cH:34][cH:35][cH:36]2)[NH:29][C:27]1([C:25]([NH:24][CH3:23])=[O:26])[CH3:28],water,298.15,27.23730545105901,0.7329932746692064
409,447,[CH3:1][O:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1.[CH:11]#[N+:12][C-:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21]>>[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:13]([C:14](=[O:15])[O:16][CH3:17])([C:18](=[O:19])[O:20][CH3:21])[N:12]=[CH:11]1,water,298.15,16.188876988556675,-62.3932015768567
1131,1230,[CH2-:18][NH+:19]=[C:20]([CH3:21])[C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:20]([CH3:21])([C:22]([CH3:23])=[O:24])[NH:19][CH2:18]2,water,298.15,10.688296755313305,-44.45716636089914
3178,3586,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][C:6](=[O:7])[CH:8]=[O+:9][N-:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:10]([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[O:9][CH:8]1[C:6]([CH3:5])=[O:7],water,298.15,9.188616805496416,-43.5966270141341
726,788,[CH3:15][O:16][C:17](=[O:18])[N-:19][O+:20]=[N:21][C:22]#[N:23].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[N:19]([C:17]([O:16][CH3:15])=[O:18])[O:20][N:21]2[C:22]#[N:23],water,298.15,3.2720163643286524,-57.46559205512745
562,616,[CH3:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[N+:20]([CH3:21])[NH-:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[NH:22][N:20]([CH3:21])[C:17]2([C:15]([CH3:14])=[O:16])[C:18]#[N:19],water,298.15,40.22654889161316,4.5923177841847
599,656,[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7].[CH3:8][C-:9]([N+:10]#[C:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)=[N:10][C:9]1([CH3:8])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,14.61209676180358,-63.04928253195009
999,1088,[CH3:15][N-:16][O+:17]=[C:18]([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[N:16]([CH3:15])[O:17][C:18]3([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,15.362835574602077,-56.66612388052227
232,255,[CH3:9][O:10][C:11](=[O:12])[N-:13][O+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19].[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:15]([CH3:16])([C:17]([CH3:18])=[O:19])[O:14][N:13]1[C:11]([O:10][CH3:9])=[O:12],water,298.15,13.34789253146434,-56.79975075602764
4268,4882,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:19]([C:20]#[N:21])([C:22]#[N:23])[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,26.96952520633365,-15.642968417079349
